US04249931
Preparation of 2-phenyl-2(3-carbomethoxypropionyl)5-methoxymethyl oxazolidine
To 19.3 milliliters of 25 percent w/v, 2-phenyl-5-methoxymethyl oxazolidine solution in 50 milliliters of benzene with 3.8 grams of 3-carbomethoxyproprionyl chloride was added 2.0 grams of 50% sodium hydroxide. After the reaction was complete the mixture was washed with water, separated, dried and the organic solvent removed in vacuo. There was obtained 6.8 grams of the title compound, nD30 1.4913. Analytical data supports the structure.

reactant | 2-phenyl-5-methoxymethyl oxazolidine | C1(=CC=CC=C1)C1OC(CN1)COC | C11H15NO2
reactant | 3-carbomethoxyproprionyl chloride | 3.8 grams | C(=O)(OC)CCC(=O)Cl | C5H7ClO3
reactant | sodium hydroxide | 2.0 grams | [OH-].[Na+]
solvent | benzene | 50 milliliters | C1=CC=CC=C1 | C6H6
product | 2-phenyl-2(3-carbomethoxypropionyl)5-methoxymethyl oxazolidine | 6.8 grams | C1(=CC=CC=C1)C1(OC(CN1)COC)C(CCC(=O)OC)=O | C16H21NO5
